US05331099
Approximately 10 ml of liquid ammonia was added rapidly to a solution of 100 mg of 4'-nitrobenzanilide and 50 ml of methanol in a Parr bomb at -50° C. The Parr reactor was stirred at 120° C./300 psi (21.1 kg/cm2) for 3 days. After the reactor was cooled to -50°C., the pressure was released and the reactor was opened. An aliquot was taken out for HPLC analysis which revealed a 50% yield of 4-nitroaniline and benzamide. The remainder of the material was unreacted.

reactant | ammonia | N | H3N
reactant | 4'-nitrobenzanilide | 100 mg | [N+](=O)([O-])C1=CC=C(NC(C2=CC=CC=C2)=O)C=C1 | C13H10N2O3
reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
solvent | methanol | 50 ml | CO | CH4O
product | 4-nitroaniline | 50% yield | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
